US09238656B2
Synthesis of (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound 2—X═Cl)
(1S,2S,3R,4R)-3-(2-Amino-5-chloro-3-nitro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (100 mg, 0.3 mmol) was dissolved in a mixture of tetrahydrofuran (1 mL) and acetic acid (1.6 mL). Powdered iron (121 mg, 2.162 mmol) was added and the mixture was stirred at 30° C. for four hours. Two drops of water was added and suspended solids were removed by filtration. The solid was washed with ethyl acetate (5 mL) and the combined filtrates were portioned between ethyl acetate and saturated sodium bicarbonate solution. The organics were extracted with ethyl acetate (3×25 mL), were dried (sodium sulfate) and were concentrated. Purification was effected via ISCO chromatography (12 g silica cartridge: gradient elution—0 to 15% MeOH:DCM) to afford 77 mg (80%) of the title compound as a tan solid. 1H NMR (d-chloroform): 7.49 (s, 1H), 6.18-6.20 (m, 4H), 6.09 (m, 1H), 4.51 (d, J=11 Hz, 1H), 4.09 (br s, 2H), 3.79 (d, J=9 Hz, 1H), 2.97 (s, 1H), 2.64 (s, 1H), 2.53 (d, J=8 Hz, 1H), 2.32 (d, J=9 Hz, 1H), 2.06 (s, 1H), 1.66 (d, J=9 Hz, 1H). MS: 294.99 (M+H). HPLC retention time: 1.62 minutes (G Method).

reactant | (1S,2S,3R,4R)-3-(2-Amino-5-chloro-3-nitro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.3 mmol, 100 mg | NC1=NC=C(C(=C1[N+](=O)[O-])N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H14ClN5O3
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 1.6 mL | C(C)(=O)O | C2H4O2
catalyst | water | Two drops | O | H2O
catalyst | iron | 2.162 mmol, 121 mg | [Fe] | Fe
product | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 77 mg, 80% | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
